US08097610B2
Preparation of [3-[(R)-3-butyl-4-(6-trifluoromethoxybenzothiazole-2-yl)-piperazine-1-ylmethyl]-5-methylphenoxy]acetic acid methyl ester
A mixture of 2-((R)-2-butylpiperazine-1-yl)-6-trifluoromethoxybenzothiazole dihydrochloride (170 mg), (3-chloromethyl-5-methylphenoxy)acetic acid methyl ester (108 mg), potassium carbonate (270 mg), potassium iodide (65 mg) and dimethylformamide (4 mL) was stirred at room temperature for 24 hours. To the reaction solution was added water and extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over magnesium sulphate. The solvent was evaporated under reduced pressure and the residue was purified by column chromatograph on silica gel to give the title compound (203 mg). Yield: 94%.

reactant | 2-((R)-2-butylpiperazine-1-yl)-6-trifluoromethoxybenzothiazole dihydrochloride | 170 mg | Cl.Cl.C(CCC)[C@H]1N(CCNC1)C=1SC2=C(N1)C=CC(=C2)OC(F)(F)F
reactant | (3-chloromethyl-5-methylphenoxy)acetic acid methyl ester | 108 mg | COC(COC1=CC(=CC(=C1)C)CCl)=O | C11H13ClO3
reactant | potassium carbonate | 270 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 65 mg | [I-].[K+]
solvent | water | O | H2O
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | [3-[(R)-3-butyl-4-(6-trifluoromethoxybenzothiazole-2-yl)-piperazine-1-ylmethyl]-5-methylphenoxy]acetic acid methyl ester | 203 mg, Yield: 94% | COC(COC1=CC(=CC(=C1)C)CN1C[C@H](N(CC1)C=1SC2=C(N1)C=CC(=C2)OC(F)(F)F)CCCC)=O | C27H32F3N3O4S
